US05354747
1-[2-(4-pyridinyl)ethyl]piperazine
To a melt of piperazine (15 g, 0.17 mol) heated to 105° C. was added dropwise 4-vinylpyridine (1.25 mL, 0.012 mol). After refluxing the reaction for 5.5 hours, it was cooled to room temperature and chromatographed to provide 0.92 g of the title compound.

reactant | piperazine | 0.17 mol, 15 g | N1CCNCC1 | C4H10N2
reactant | 4-vinylpyridine | 0.012 mol, 1.25 mL | C(=C)C1=CC=NC=C1 | C7H7N
product | 1-[2-(4-pyridinyl)ethyl]piperazine | 0.92 g | N1=CC=C(C=C1)CCN1CCNCC1 | C11H17N3
